Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old female with a history CAD s/p CABG 
(EF=50-55%), HTN, IDDM, hyperlipidemia, who presents for 
evaluation of new DOE, orthopnea, and ___ edema x 3d. Her 
symptoms began 3d ago, she denies CP, but notes +palpitations, 
increased abdominal girth and ___ edema, does not weigh herself 
daily, new orthopnea (usu sleeps at 30 degrees since CABG, now 
sleeping upright in chair x3d). DOE occurs with ambulation to 
bathroom, not at rest. She was seen by her cardiolgist on ___, 
without sx of heart failure, but noted to have new basal 
inferior AK on recent TTE.  
.  
Of note, pt recently d/c'd from ___ ___ for viral 
gastroenteritis, dehydration, found to have UTI (increased 
frequency). At that time she was noted to have new murmur, 
though TTE showed no vegetation, valvular abnormality, and 
normal EF. She was discharged on 3d course of bactrim. ~2wk 
after discharge, she notes fevers to 100.6 daily, last 
___, she saw her PCP, who obtained UA and started 7d 
course of bactrim for UTI (prior BI culture polymicrobial).  
.  
pt denies recent cp, no recent medication changes, 
non-compliance, dietary indiscretion. she does note a sensation 
of heart racing, ___ per day, starting during past hospital 
admission, typically with exertion, and when lying flat.  
In the ED, VS= 98.7 79 127/66 20 97%RA (89-95% per ED), her 
murmur was noted to be prominent, ___ SEM, EKG no ste/std, CE 
negative x 1, CXR c/w CHF, pt noted to hct ___, guaic 
negative, K=5.4. UA BCx drawn, given lasix 40mg iv x 1. Pt 
admitted for workup of CHF and ?endocarditis.  

 
Past Medical History:
- DM2 (___) c/b neuropathy/retinopathy, HbA1C 14.5 in ___,  
- hypertension  
- dyslipidemia  
- CAD - s/p CABG ___ (LIMA->LAD, SVG-PDA, SVG->OM1, SVG->OM2, 
SVG->D1), c/b sternal wound infection, with all saphenous vein 
grafts known to be occluded and multiple PCI/stents to the LCx 
and OM1 with recurrent occlusion and eventual decision for 
medical management (good collateralization)  
-Repeat catheterization on ___ showing all vein grafts  
occluded and 80% mid circumflex stenosis, and 70% OM1 stenosis  
status post 2.5-mm stents;  
-Catheterization on ___: done for recurrent angina,  
occluded proximal OM with in-stent restenosis, status post PTCA  

and brachytherapy.  
-Recurrent symptoms on ___ showing 99% ISR of OM1 status  
post Cypher DES, and 80% ISR of mid circumflex status post CES,  

-Catheterization ___ for recurrent symptoms showing 70%  
diffuse lesion distal to the stent in the proximal OM, status  
post 2.5 x 18 mm drug-eluting stent; most recent cardiac  
catheterization as described below.  
- left great toe ulcer since ___.  
- depression.  
 
Social History:
___
Family History:
There is +family history of premature coronary artery disease 
(father, MI ___, no h/o sudden death. 
 
Physical Exam:
VS - 98.0 115/57 70 16 94%RA 113 kg (UOP 800cc per pt)  
Gen: WDWN middle aged female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 8 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No r/g. No thrills, lifts. No S3 or S4. ___ 
SEM @ LSB  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. bilateral basilar 
rales, no wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, or xanthomas. left first toe ulcer 
~5mm diameter, no drainage or erythema.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ ___ 1+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ ___ 1+  
 
Pertinent Results:
___ 07:45PM BLOOD WBC-9.9 RBC-3.18* Hgb-8.2* Hct-25.1* 
MCV-79* MCH-25.9* MCHC-32.9 RDW-14.8 Plt ___
___ 07:45PM BLOOD Neuts-69.2 ___ Monos-4.8 Eos-1.8 
Baso-0.6
___ 07:45PM BLOOD Glucose-310* UreaN-20 Creat-1.1 Na-136 
K-5.4* Cl-98 HCO3-26 AnGap-17
___ 07:45PM BLOOD LD(LDH)-158 TotBili-0.4 Hapto-600*
___ 07:45PM BLOOD CK(CPK)-27 CK-MB-NotDone cTropnT-<0.01
___ 06:50AM BLOOD CK(CPK)-23* cTropnT-<0.01 
___ 06:50AM BLOOD proBNP-___*
___ 03:22PM BLOOD CK(CPK)-24* CK-MB-NotDone cTropnT-<0.01
___ 06:50AM BLOOD calTIBC-306 Ferritn-77 TRF-235
.
___ UCX: STAPHYLOCOCCUS, COAGULASE NEGATIVE.    
10,000-100,000 ORGANISMS/ML.. speciation and sensitivities 
pending
.
EKG demonstrated NSR ___, no STE/STD, with no significant change 
compared with prior dated ___  
.  
___ CXR: Cardiomegaly, mild interstitial congestion, and 
small bilateral pleural effusions.  
.  
___ Echo: The left atrium is mildly dilated. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is mildly dilated. Due to suboptimal technical quality, a 
focal wall motion abnormality cannot be fully excluded. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
.
No vegetation seen but cannot definitively exclude. 
.
Compared with the prior study (images reviewed) of ___, 
there is no definite change.  
 
Brief Hospital Course:
The patient is a ___ year-old female with PMH significant for CAD 
s/p CABG in ___ (EF=50-55%), IDDM, hyperlipidemia, and HTN who 
presents with new DOE and persistent low-grade fever.  
.  
#. CAD - The patient ruled out for acute MI with negative 
cardiac enzymes x 3 and no evidence of ischemia on EKG. The 
patient had an echo inhouse to evaluate for presence of new wall 
motion abnormality as new CHF could have been secondary to 
recent MI; however, wall motion overall appeared unchanged from 
prior. (Note: new ___ could not be excluded on echo due to poor 
windows.) The patient was continued on medical management with 
aspirin, plavix, BB, statin, and imdur with no acute issues.  
.  
#. Pump/ acute diastolic CHF - The patient had no evidence of 
CHF at recent outpatient cardiology visit ___, but now presented 
with clinical symptoms and radiographic evidence of CHF. BNP was 
elevated at 2200 (no baseline for comparison). Echo was 
consistent with mild diastolic failure with LVEF 60%. Etiology 
of CHF was unclear, but high output failure was considered in 
the setting of fever and anemia. Silient ischemia was felt to be 
unlikely as there were no new focal WMA on echo (however, this 
could not be fully excluded due to poor windows). The patient 
responded well to diuresis with IV lasix with resolution of SOB 
and ___ edema. Home dose of lasix 40mg po daily was started prior 
to discharge. She was continued on ACE, BB, and CCB for 
afterload reduction. The patient was discharged on mild 2000cc 
fluid restriction, and was advised to ___ with her 
cardiologist for further management.
.  
#. Rhythm - NSR on telemetry. The patient was continued on home 
BB. 
.  
#. HTN - The patient was continued on home regimen of ACE, BB, 
norvasc, and lasix. Lisinopril dose was decreased from 30mg 
daily to 20mg daily for hyperkalemia. 
.  
#. Hyperlipidemia - Lipid panel showed: Tchol-116, ___, 
HDL-20, LDL-59 in ___. 
The patient was continued on home regimen of zetia and 
atorvastatin.  
.  
# Fevers - The patient reported history of low-grade fevers to 
100.8 for approx 2 weeks. There was no localizing signs or 
symptoms of infection on exam, except known UTI that was being 
treated with an extended course of bactrim. Etiology of fever 
was felt to be secondary to inadequately treated UTI ___ 
coag neg staph here, outpatient UCx on ___ with 8K gram pos 
colonies with no speciation or sensitivities at that time) 
versus drug fever in response to Bactrim. Admission CBC was 
without leukocytosis or left shift, CXR was without obvious 
infiltrate. BCx were negative to date during admission. R foot 
films were negative for osteomyelitis (small superficial 
nonhealing ulcer on R great toe and elevated ESR/ CRP earlier in 
___. Other infectious sources include possible endocarditis 
given new murmur and elevated ESR and CRP on last admission; 
however, the patient did not consent to TEE (TTE negative for 
vegitation, but poor windows). ROS was negative for 
rheumatologic disease. The patient was switched to ciprofloxacin 
to complete a 7 day course for presumptive UTI - temperature 
curve decreased to < 100 after this switch. Speciation and 
sensitivities on urine culture were pending at the time of 
discharge, and may be followed up by the patient's PCP. The 
patient was advised to monitor fever curve after discharge.
.  
#. IDDM - The patient has a history of poorly controlled IDDM 
with recent HbA1c of 14.5% in ___. She was previously followed 
by ___, though not recently. The patient was seen by the 
___ inhouse. Insulin regimen was uptitrated with good 
effect - BS in the 100s prior to discharge. She was set-up for 
___ in ___ for further care. Neurontin was continued 
for neuropathic pain.  
.  
#. Anemia - The patient had evidence of a microcytic anemia with 
hct ___ during admission. Fe studies were consistent with iron 
deficiency, but likely has an element of AOCD given elevated ESR 
and CRP. Retic slightly elevated at 1.9%. There was no evidence 
of bleeding or hemolysis (guaiac negative on rectal exam in ED, 
no recent procedures, hemolysis labs negative). There is no 
family history of colon cancer, and the patient has not had a 
prior colonoscopy. The patient is still menstruating. She was 
started on iron supplementation inhouse and advised to have hct 
monitored as an outpatient. If ESR is still elevated and anemia 
persists in ___ weeks, rheumatologic evaluation may be 
considered. (Rheumatologic ROS negative as inpatient). 
Outpatient colonoscopy may be considered in the future.
.  
#. Hyperkalemia - The patient presented with peristent 
hyperkalemia (K 5.3-5.6) inhouse despite lasix and kayexalate. 
There were no EKG changes. Lisinopril dose was decreased to 20mg 
daily. Home lasix was continued. KCl supplementation was 
discontinued. 
.
#. The patient was discharged in good condition on ___ with 
cardiology and PCP ___ in place.
 
Medications on Admission:
1. Norvasc 10 mg a day.  
2. Aspirin 325 mg once daily.  
3. Plavix 75 mg once daily.  
4. Zetia 10 mg once daily.  
5. Lasix 40 mg once daily.  
6. Neurontin 300 mg three times a day.  
7. Imdur 30 mg daily.  
8. Zestril 30 mg daily.  
9. Lopressor 50 mg b.i.d.  
10. Sublingual nitroglycerin.  
11. Potassium 20 mEq.  
12. Zoloft 50 mg daily.  
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

4. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
7. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
10. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
11. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) tablet 
Sublingual Q5min PRN: please call ___ if chest pain is not 
releived after 3 tablets.  
12. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Coronary Artery Disease
Diastolic heart failure  
Urinary tract infection

Secondary:
Dyslipidemia
Hypertension   
Left great toe ulcer
Depression

 
Discharge Condition:
Stable, afebrile, saturating well on room air

 
Discharge Instructions:
You were admitted with shortness of breath with exertion. An 
echocardiogram showed mild heart failure. Your shortness of 
breath improved throughout the hospital stay with diuretics. In 
addition, your fevers have resolved, and you should continue to 
take your antibiotic (ciprofloxacin) as prescribed for your UTI. 
If you continue to feel shortness of breath, fevers, or develop 
any new symptoms such as chest pain, headache, nausea, vomiting, 
severe back pain, or other concerning symptoms, please seek 
medical attention immediately. 

You have follow up appointments scheduled with your PCP, your 
cardiologist, and your endocrinologist at the ___. If you 
cannot keep these appointments, please call to reschedule. 
 
Followup Instructions:
___